US05663346
5-(2,3-dihydroxypropylamino)-3-[(7-azaindol-3-yl) methylene]-2-oxindole
To a stirred solution of 5-amino-3-[(7-azaindol-3-yl) methylen]-2-oxindole (2.773 g, 10 mmol) in methanol (30 ml) was added anhydrous methylammonium chloride (0.60 g, 10 mmol). Then sodium cyanoborohydride (0.378 g, 6 mmol) was added in portions. Finally, glyceraldehyde (0.901 g, 10 mmol) was added portionwise over 30 min and the solution stirred at room temperature for 50 h. Ice cold 6N HCl was added until gas evolution (HCN) stopped and the pH of the solution was 2. The methanol was evaporated in vacuo and the remaining aqueous solution was washed with CHCl3. Solid KOH was added until the pH was 12. Solid NaCl was added to saturation and the solution extracted twice with CHCl3. The CHCl3 extracts were washed with saturated NaCl solution, dried over K2CO3 and evaporated. The residue was chromatographed on silica gel using CHCl3 --MeOH mixtures as eluant. Thus pure title compound was obtained in about 60% yield.

reactant | 5-amino-3-[(7-azaindol-3-yl) methylen]-2-oxindole | 10 mmol, 2.773 g | NC=1C=C2C(C(NC2=CC1)=O)=CC1=CNC2=NC=CC=C12 | C16H12N4O
reactant | methylammonium chloride | 10 mmol, 0.60 g | [Cl-].C[NH3+]
reactant | sodium cyanoborohydride | 6 mmol, 0.378 g | C(#N)[BH3-].[Na+]
reactant | glyceraldehyde | 10 mmol, 0.901 g | O=CC(O)CO | C3H6O3
reactant | HCN | C#N | CHN
solvent | methanol | 30 ml | CO | CH4O
product | 5-(2,3-dihydroxypropylamino)-3-[(7-azaindol-3-yl) methylene]-2-oxindole | about 60% yield | OC(CNC=1C=C2C(C(NC2=CC1)=O)=CC1=CNC2=NC=CC=C12)CO | C19H18N4O3
